* NGSPICE file created from hgu_clk_async.ext - technology: sky130A

.subckt sky130_fd_sc_hd__mux2_1 A0 A1 S VGND VPWR X VNB VPB
X0 VPWR a_505_21# a_535_374# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0693 pd=0.75 as=0.0441 ps=0.63 w=0.42 l=0.15
X1 a_505_21# S VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.118 pd=1.4 as=0.0693 ps=0.75 w=0.42 l=0.15
X2 a_218_374# S VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0767 pd=0.785 as=0.158 ps=1.39 w=0.42 l=0.15
X3 VGND a_505_21# a_439_47# VNB sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.11 as=0.0693 ps=0.75 w=0.42 l=0.15
X4 a_76_199# A0 a_218_374# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.193 pd=1.34 as=0.0767 ps=0.785 w=0.42 l=0.15
X5 a_505_21# S VGND VNB sky130_fd_pr__nfet_01v8 ad=0.109 pd=1.36 as=0.145 ps=1.11 w=0.42 l=0.15
X6 a_439_47# A0 a_76_199# VNB sky130_fd_pr__nfet_01v8 ad=0.0693 pd=0.75 as=0.0997 ps=0.895 w=0.42 l=0.15
X7 a_535_374# A1 a_76_199# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0441 pd=0.63 as=0.193 ps=1.34 w=0.42 l=0.15
X8 a_76_199# A1 a_218_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0997 pd=0.895 as=0.0693 ps=0.75 w=0.42 l=0.15
X9 a_218_47# S VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0693 pd=0.75 as=0.113 ps=1.04 w=0.42 l=0.15
X10 VPWR a_76_199# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.158 pd=1.39 as=0.26 ps=2.52 w=1 l=0.15
X11 VGND a_76_199# X VNB sky130_fd_pr__nfet_01v8 ad=0.113 pd=1.04 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt hgu_delay_no_code IN OUT x10.A code[1] code[2] x2.SW x7.SW VSS VDD
X0 x9.output_stack x10.Y x5[7].floating VDD sky130_fd_pr__pfet_01v8 ad=0.101 pd=0.9 as=0.122 ps=1.42 w=0.42 l=0.15
X1 x9.output_stack code[2] x4[3].floating VSS sky130_fd_pr__nfet_01v8 ad=0.0966 pd=0.88 as=0.122 ps=1.42 w=0.42 l=0.15
X2 x5[7].floating x10.Y x9.output_stack VDD sky130_fd_pr__pfet_01v8 ad=0.122 pd=1.42 as=0.101 ps=0.9 w=0.42 l=0.15
X3 x9.output_stack x7.SW x7.floating VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.122 ps=1.42 w=0.42 l=0.15
X4 a_15703_1340# OUT VDD VSS sky130_fd_pr__nfet_01v8 ad=0.13 pd=1.46 as=0.0693 ps=0.75 w=0.42 l=0.15
X5 x3[1].floating code[1] x9.output_stack VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0966 ps=0.88 w=0.42 l=0.15
X6 a_9893_879# IN a_9805_879# VSS sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.122 ps=1.42 w=0.42 l=0.15
X7 a_9965_465# IN a_9893_465# VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0441 ps=0.63 w=0.42 l=0.15
X8 a_9918_2268# IN a_9830_2130# VDD sky130_fd_pr__pfet_01v8_hvt ad=0.122 pd=1.42 as=0.122 ps=1.42 w=0.42 l=0.15
X9 a_9965_1017# IN a_9893_1017# VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0441 ps=0.63 w=0.42 l=0.15
X10 a_9918_2544# IN a_9830_2682# VDD sky130_fd_pr__pfet_01v8_hvt ad=0.122 pd=1.42 as=0.122 ps=1.42 w=0.42 l=0.15
X11 a_15703_1340# x9.output_stack VSS VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.122 ps=1.42 w=0.42 l=0.15
X12 a_15703_1681# x9.output_stack OUT VDD sky130_fd_pr__pfet_01v8_hvt ad=0.0651 pd=0.73 as=0.122 ps=1.42 w=0.42 l=0.15
X13 x4[3].floating code[2] x9.output_stack VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0966 ps=0.88 w=0.42 l=0.15
X14 VDD OUT a_15703_1340# VSS sky130_fd_pr__nfet_01v8 ad=0.0693 pd=0.75 as=0.0651 ps=0.73 w=0.42 l=0.15
X15 a_9893_465# IN a_9805_327# VSS sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.122 ps=1.42 w=0.42 l=0.15
X16 VDD x7.SW x6.SW VDD sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.26 ps=2.52 w=1 l=0.15
X17 VSS IN a_9893_327# VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0441 ps=0.63 w=0.42 l=0.15
X18 x9.output_stack x10.Y x5[7].floating VDD sky130_fd_pr__pfet_01v8 ad=0.101 pd=0.9 as=0.122 ps=1.42 w=0.42 l=0.15
X19 x5[7].floating x10.Y x9.output_stack VDD sky130_fd_pr__pfet_01v8 ad=0.122 pd=1.42 as=0.101 ps=0.9 w=0.42 l=0.15
X20 a_9918_2544# IN a_9830_2406# VDD sky130_fd_pr__pfet_01v8_hvt ad=0.122 pd=1.42 as=0.122 ps=1.42 w=0.42 l=0.15
X21 x9.output_stack code[1] x3[1].floating VSS sky130_fd_pr__nfet_01v8 ad=0.0966 pd=0.88 as=0.122 ps=1.42 w=0.42 l=0.15
X22 a_9965_741# IN a_9893_741# VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0441 ps=0.63 w=0.42 l=0.15
X23 a_9893_327# IN a_9805_327# VSS sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.122 ps=1.42 w=0.42 l=0.15
X24 x10.Y x10.A VDD VDD sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.26 ps=2.52 w=1 l=0.15
X25 a_15703_1681# x9.output_stack VDD VDD sky130_fd_pr__pfet_01v8_hvt ad=0.122 pd=1.42 as=0.122 ps=1.42 w=0.42 l=0.15
X26 x9.output_stack x6.SW x6.floating VDD sky130_fd_pr__pfet_01v8 ad=0.122 pd=1.42 as=0.122 ps=1.42 w=0.42 l=0.15
X27 VSS x7.SW x6.SW VSS sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.169 ps=1.82 w=0.65 l=0.15
X28 a_9893_1293# IN a_9805_1155# VSS sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.122 ps=1.42 w=0.42 l=0.15
X29 x5[7].floating x10.Y x9.output_stack VDD sky130_fd_pr__pfet_01v8 ad=0.122 pd=1.42 as=0.101 ps=0.9 w=0.42 l=0.15
X30 a_15703_1681# OUT VSS VDD sky130_fd_pr__pfet_01v8_hvt ad=0.13 pd=1.46 as=0.0693 ps=0.75 w=0.42 l=0.15
X31 a_9893_741# IN a_9805_603# VSS sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.122 ps=1.42 w=0.42 l=0.15
X32 x9.output_stack IN a_9830_2130# VDD sky130_fd_pr__pfet_01v8_hvt ad=0.122 pd=1.42 as=0.122 ps=1.42 w=0.42 l=0.15
X33 x5[7].floating x10.Y x9.output_stack VDD sky130_fd_pr__pfet_01v8 ad=0.122 pd=1.42 as=0.101 ps=0.9 w=0.42 l=0.15
X34 x9.output_stack x10.Y x5[7].floating VDD sky130_fd_pr__pfet_01v8 ad=0.101 pd=0.9 as=0.122 ps=1.42 w=0.42 l=0.15
X35 x9.output_stack code[2] x4[3].floating VSS sky130_fd_pr__nfet_01v8 ad=0.0966 pd=0.88 as=0.122 ps=1.42 w=0.42 l=0.15
X36 a_9965_465# IN a_9893_603# VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0441 ps=0.63 w=0.42 l=0.15
X37 a_9918_2268# IN a_9830_2406# VDD sky130_fd_pr__pfet_01v8_hvt ad=0.122 pd=1.42 as=0.122 ps=1.42 w=0.42 l=0.15
X38 x4[3].floating code[2] x9.output_stack VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0966 ps=0.88 w=0.42 l=0.15
X39 a_15703_1340# x9.output_stack OUT VSS sky130_fd_pr__nfet_01v8 ad=0.0651 pd=0.73 as=0.122 ps=1.42 w=0.42 l=0.15
X40 x9.output_stack IN a_9893_1293# VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0441 ps=0.63 w=0.42 l=0.15
X41 x10.Y x10.A VSS VSS sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.169 ps=1.82 w=0.65 l=0.15
X42 a_9893_1155# IN a_9805_1155# VSS sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.122 ps=1.42 w=0.42 l=0.15
X43 VDD IN a_9830_2682# VDD sky130_fd_pr__pfet_01v8_hvt ad=0.122 pd=1.42 as=0.122 ps=1.42 w=0.42 l=0.15
X44 x9.output_stack x10.Y x5[7].floating VDD sky130_fd_pr__pfet_01v8 ad=0.101 pd=0.9 as=0.122 ps=1.42 w=0.42 l=0.15
X45 VSS OUT a_15703_1681# VDD sky130_fd_pr__pfet_01v8_hvt ad=0.0693 pd=0.75 as=0.0651 ps=0.73 w=0.42 l=0.15
X46 x2.floating x2.SW x9.output_stack VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.124 ps=1.43 w=0.42 l=0.15
X47 a_9893_603# IN a_9805_603# VSS sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.122 ps=1.42 w=0.42 l=0.15
X48 a_9965_1017# IN a_9893_1155# VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0441 ps=0.63 w=0.42 l=0.15
X49 a_9965_741# IN a_9893_879# VSS sky130_fd_pr__nfet_01v8 ad=0.122 pd=1.42 as=0.0441 ps=0.63 w=0.42 l=0.15
X50 a_9893_1017# IN a_9805_879# VSS sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.122 ps=1.42 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__inv_1 A VGND VPWR Y VNB VPB
X0 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.169 ps=1.82 w=0.65 l=0.15
X1 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.26 ps=2.52 w=1 l=0.15
.ends

.subckt sky130_fd_sc_hd__dfbbp_1 CLK D RESET_B SET_B VGND VPWR Q Q_N VNB VPB
X0 a_788_47# a_942_21# a_648_21# VNB sky130_fd_pr__nfet_01v8 ad=0.166 pd=1.8 as=0.0864 ps=0.91 w=0.64 l=0.15
X1 VPWR RESET_B a_942_21# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.154 pd=1.34 as=0.166 ps=1.8 w=0.64 l=0.15
X2 VGND a_1429_21# a_1364_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0588 pd=0.7 as=0.066 ps=0.745 w=0.42 l=0.15
X3 VPWR a_942_21# a_1663_329# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.218 pd=2.2 as=0.0882 ps=1.05 w=0.84 l=0.15
X4 VPWR CLK a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0864 pd=0.91 as=0.166 ps=1.8 w=0.64 l=0.15
X5 a_381_47# D VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0662 pd=0.735 as=0.109 ps=1.36 w=0.42 l=0.15
X6 VPWR a_1429_21# a_1341_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0819 pd=0.81 as=0.0924 ps=0.86 w=0.42 l=0.15
X7 a_474_413# a_27_47# a_381_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0684 pd=0.74 as=0.066 ps=0.745 w=0.36 l=0.15
X8 a_1545_47# a_942_21# a_1429_21# VNB sky130_fd_pr__nfet_01v8 ad=0.166 pd=1.8 as=0.0864 ps=0.91 w=0.64 l=0.15
X9 VPWR a_1429_21# a_2136_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.149 pd=1.33 as=0.166 ps=1.8 w=0.64 l=0.15
X10 a_582_47# a_193_47# a_474_413# VNB sky130_fd_pr__nfet_01v8 ad=0.0671 pd=0.75 as=0.0684 ps=0.74 w=0.36 l=0.15
X11 a_1429_21# SET_B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.123 pd=1.17 as=0.0819 ps=0.81 w=0.42 l=0.15
X12 a_648_21# a_474_413# a_788_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0864 pd=0.91 as=0.101 ps=0.99 w=0.64 l=0.15
X13 a_1341_413# a_193_47# a_1255_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0924 pd=0.86 as=0.0567 ps=0.69 w=0.42 l=0.15
X14 a_1663_329# a_1255_47# a_1429_21# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0882 pd=1.05 as=0.123 ps=1.17 w=0.84 l=0.15
X15 a_1160_47# a_648_21# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0935 pd=0.965 as=0.166 ps=1.8 w=0.64 l=0.15
X16 a_193_47# a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.109 pd=1.36 as=0.0567 ps=0.69 w=0.42 l=0.15
X17 a_1255_47# a_27_47# a_1113_329# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.174 ps=1.41 w=0.42 l=0.15
X18 Q a_2136_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.149 ps=1.33 w=1 l=0.15
X19 a_648_21# SET_B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.147 pd=1.23 as=0.0798 ps=0.8 w=0.42 l=0.15
X20 a_788_47# SET_B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.101 pd=0.99 as=0.084 ps=0.82 w=0.42 l=0.15
X21 Q_N a_1429_21# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.154 ps=1.34 w=1 l=0.15
X22 VGND RESET_B a_942_21# VNB sky130_fd_pr__nfet_01v8 ad=0.097 pd=0.975 as=0.109 ps=1.36 w=0.42 l=0.15
X23 Q a_2136_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.097 ps=0.975 w=0.65 l=0.15
X24 VPWR a_942_21# a_892_329# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.225 pd=1.38 as=0.113 ps=1.11 w=0.84 l=0.15
X25 a_558_413# a_27_47# a_474_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0945 pd=0.87 as=0.0567 ps=0.69 w=0.42 l=0.15
X26 VGND a_648_21# a_582_47# VNB sky130_fd_pr__nfet_01v8 ad=0.084 pd=0.82 as=0.0671 ps=0.75 w=0.42 l=0.15
X27 a_892_329# a_474_413# a_648_21# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.113 pd=1.11 as=0.147 ps=1.23 w=0.84 l=0.15
X28 VGND a_1429_21# a_2136_47# VNB sky130_fd_pr__nfet_01v8 ad=0.097 pd=0.975 as=0.109 ps=1.36 w=0.42 l=0.15
X29 a_193_47# a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.166 pd=1.8 as=0.0864 ps=0.91 w=0.64 l=0.15
X30 a_474_413# a_193_47# a_381_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0662 ps=0.735 w=0.42 l=0.15
X31 a_1364_47# a_27_47# a_1255_47# VNB sky130_fd_pr__nfet_01v8 ad=0.066 pd=0.745 as=0.0711 ps=0.755 w=0.36 l=0.15
X32 a_1255_47# a_193_47# a_1160_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0711 pd=0.755 as=0.0935 ps=0.965 w=0.36 l=0.15
X33 Q_N a_1429_21# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.097 ps=0.975 w=0.65 l=0.15
X34 a_1545_47# SET_B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.12 pd=1.08 as=0.0588 ps=0.7 w=0.42 l=0.15
X35 VPWR a_648_21# a_558_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0798 pd=0.8 as=0.0945 ps=0.87 w=0.42 l=0.15
X36 a_381_47# D VGND VNB sky130_fd_pr__nfet_01v8 ad=0.066 pd=0.745 as=0.109 ps=1.36 w=0.42 l=0.15
X37 a_1113_329# a_648_21# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.174 pd=1.41 as=0.225 ps=1.38 w=0.84 l=0.15
X38 VGND CLK a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.109 ps=1.36 w=0.42 l=0.15
X39 a_1429_21# a_1255_47# a_1545_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0864 pd=0.91 as=0.12 ps=1.08 w=0.64 l=0.15
.ends

.subckt hgu_clk_async sample_clk eob ready delay_offset async_clk_sar vss vdd async_resetb_delay_ctrl_code[2]
+ async_resetb_delay_ctrl_code[1] async_resetb_delay_ctrl_code[0] async_resetb_delay_ctrl_code[3]
+ async_setb_delay_ctrl_code[3] async_setb_delay_ctrl_code[0] async_setb_delay_ctrl_code[1]
+ async_setb_delay_ctrl_code[2]
Xx3 x3/A0 vss sample_clk vss vdd x3/X vss vdd sky130_fd_sc_hd__mux2_1
Xx2 ready x9/A async_setb_delay_ctrl_code[3] async_setb_delay_ctrl_code[1] async_setb_delay_ctrl_code[2]
+ async_setb_delay_ctrl_code[0] delay_offset vss vdd hgu_delay_no_code
Xx4 async_clk_sar x10/A async_resetb_delay_ctrl_code[3] async_resetb_delay_ctrl_code[1]
+ async_resetb_delay_ctrl_code[2] async_resetb_delay_ctrl_code[0] delay_offset vss
+ vdd hgu_delay_no_code
Xx8 x3/X vss eob vss vdd async_clk_sar vss vdd sky130_fd_sc_hd__mux2_1
Xx9 x9/A vss vdd x9/Y vss vdd sky130_fd_sc_hd__inv_1
Xx10 x10/A vss vdd x10/Y vss vdd sky130_fd_sc_hd__inv_1
Xx27 sample_clk vdd x10/Y x9/Y vss vdd x3/A0 x27/Q_N vss vdd sky130_fd_sc_hd__dfbbp_1
.ends

